SKY130 nominal transistor compatibility control
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.param mc_mm_switch=0 mc_pr_switch=0
VDD vdd 0 1.8
VG gate 0 DC .7 AC 1
RLOAD vdd out 20k
CLOAD out 0 1p
XM out gate 0 0 sky130_fd_pr__nfet_01v8 W=2 L=1
.temp 27
.control
set wr_vecnames
set wr_singlescale
set numdgt=15
op
wrdata /repo/v2/verification/noise_20260910/results/20260910T062307Z/sky130_nfet/ngspice_op.tsv v(out) i(vdd)
noise v(out) VG dec 40 10 100meg
setplot noise1
wrdata /repo/v2/verification/noise_20260910/results/20260910T062307Z/sky130_nfet/ngspice_noise.tsv onoise_spectrum
tran 1n 20u
wrdata /repo/v2/verification/noise_20260910/results/20260910T062307Z/sky130_nfet/ngspice_tran.tsv v(out)
quit
.endc
.end
